US08383637B2
3-(2-Amino-6-benzoyl-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide (Compound #1)
To a solution of 3-(2-amino-5-benzoyl-benzylamino)-N-cyclohexyl-N-methyl-propionamide (3.94 g, 0.0100 mol) in methanol (200 mL) was added cyanogen bromide (1.16 g, 0.0110 mol). The resulting mixture was stirred at room temperature over the weekend and then was heated at reflux for 5 h. The solvent was evaporated to yield a residue that was crystallized from EtOAc (100 mL). The resulting precipitate was filtered and dried to yield crude product that was recrystallized from 2-propanol (50 mL) to yield the title compound, 3-(2-amino-6-benzoyl-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide.

reactant | 3-(2-amino-5-benzoyl-benzylamino)-N-cyclohexyl-N-methyl-propionamide | 0.0100 mol, 3.94 g | NC1=C(CNCCC(=O)N(C)C2CCCCC2)C=C(C=C1)C(C1=CC=CC=C1)=O | C24H31N3O2
reactant | cyanogen bromide | 0.0110 mol, 1.16 g | N#CBr | CBrN
solvent | methanol | 200 mL | CO | CH4O
product | 3-(2-amino-6-benzoyl-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide | NC1=NC2=CC=C(C=C2CN1CCC(=O)N(C)C1CCCCC1)C(C1=CC=CC=C1)=O | C25H30N4O2
